US05646173
A solution of 3.04 g of (RS)-2-(2-oxoethyl)-6-fluoro-3,3-dimethyl-1-indanone and 110 mg of p-toluenesulfonic acid in 100 ml of anhydrous toluene was heated on a water separator. A solution of 4.14 g of (R)-1-amino-2-propanol in 40 ml of anhydrous toluene was added dropwise to the boiling solution over a period of 5 minutes. Subsequently, the mixture was boiled for an additional 45 minutes, during which the solvent was reduced to a volume of 20 ml. The cooled reaction mixture was purified by column chromatography on silica gel (ethyl acetate/toluene 1:1). 2.0 g (56%) of (R)-1-(7-fluoro-4,4-dimethyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol were obtained as a brown oil.

reactant | (RS)-2-(2-oxoethyl)-6-fluoro-3,3-dimethyl-1-indanone | 3.04 g | O=CCC1C(C2=CC(=CC=C2C1(C)C)F)=O | C13H13FO2
reactant | water | O | H2O
reactant | (R)-1-amino-2-propanol | 4.14 g | NC[C@@H](C)O | C3H9NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 110 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (R)-1-(7-fluoro-4,4-dimethyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol | 2.0 g, 56% | FC1=CC=C2C(C3=C(N(C=C3)C[C@@H](C)O)C2=C1)(C)C | C16H18FNO
